US04302238
To a stirred solution of 7.2 ml (9.2 grams, 0.08 mole; 85% in carbon tetrachloride) of thiophosgene in 50 ml of carbon tetrachloride under an argon atmosphere was added dropwise 70.0 grams of an ethyl acetate solution containing 5.6 grams (0.08 mole) of dimethylketene. The addition required five minutes during which time the reaction mixture temperature rose from 25° C. to 32° C. Upon completion of addition the reaction mixture was stirred at ambient temperature for 16 hours. The reaction mixture was concentrated under reduced pressure to a semi-solid residue. The residue was slurried in petroleum ether and a solid collected by filtration. The solid, mp 112°-114° C., was the dimethylketene dimer. The filtrate was concentrated under reduced pressure to a residual oil. The oil was distilled under reduced pressure to give 2.2 grams of dimethylthiomalonyl dichloride; bp 62°-67° C./8-8.5mm. The nmr spectrum was consistent with the assigned structure.

reactant | thiophosgene | 0.08 mole, 7.2 ml, 9.2 grams | C(=S)(Cl)Cl | CCl2S
reactant | ethyl acetate | 70.0 grams | C(C)(=O)OCC | C4H8O2
reactant | dimethylketene | 0.08 mole, 5.6 grams | CC(=C=O)C | C4H6O
reactant | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | dimethylthiomalonyl dichloride | 2.2 grams | CC(C(=S)Cl)(C(=O)Cl)C | C5H6Cl2OS
